US06320051B1
a) 2-(Pyridin-2-yl)ethylcarbamic acid tert-butyl ester
To a solution of 2-(pyridin-2-yl)ethylamine (10 g, 82 mmol) dissolved in dry dimethylformamide (35 mL) and triethylamine (11 mL, 82 mmol) at 5° C. was added, portionwise, di-tert-butyl dicarbonate (17.8 g, 82 mmol). After stirring overnight at room temperature the solvent was evaporated and the residue partitioned between diethyl ether (100 mL) and water (100 mL). The organic layer was separated, dried and evaporated to yield the title compound as a colourless syrup. δH (CDCl3) 1.43 (9H, s), 2.98 (2H, t, J=6.55 Hz), 3.54 (2H, q, J=6.25 Hz), 5.28 (1H, br. s)7.09-7.20 (2H, m), 7.60 (1H, dt, J=1.76 & 7.68 Hz), 8.53 (1H, d, J=4.83 Hz); MS (ES+) 233 (78%) MH+, 167 (100%).

reactant | 2-(pyridin-2-yl)ethylamine | 82 mmol, 10 g | N1=C(C=CC=C1)CCN | C7H10N2
reactant | triethylamine | 82 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 82 mmol, 17.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 2-(Pyridin-2-yl)ethylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=NC=CC=C1)=O | C12H18N2O2
